US07442701B2
Description 34: Ethyl 2-cyanonicotinate
To ethyl 2chloronicotinate (15.0 g, 81 mmol) in anhydrous N,N-dimethylacetamide (75 ml) was added zinc cyanide (5.71 g, 48.6 mmol), Pd2(dba)3 (742 mg, 0.81 mmol), zinc (636 mg, 9.72 mmol), and 1,1′bis(diphenylphosphino)ferrocene (898 mg, 1.62 mmol), and the resulting mixture heated at 120° C. for 1 hour. The mixture was cooled to room temperature and partitioned between water (300 ml) and diethyl ether (150 ml), the mixture was filtered through Celite™ and the phases separated. The aqueous phase was further extracted with diethyl ether (2×100 ml), the combined diethyl ether layers washed with saturated NaCl, dried over Na2SO4, filtered and evaporated to give the title compound (14.26 g, 100%).

reactant | ethyl 2chloronicotinate | 81 mmol, 15.0 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | N,N-dimethylacetamide | 75 ml | CN(C(C)=O)C | C4H9NO
catalyst | zinc cyanide | 48.6 mmol, 5.71 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2(dba)3 | 0.81 mmol, 742 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc | 9.72 mmol, 636 mg | [Zn] | Zn
catalyst | 1,1′bis(diphenylphosphino)ferrocene | 1.62 mmol, 898 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Ethyl 2-cyanonicotinate | 14.26 g, 100% | C(#N)C1=C(C(=O)OCC)C=CC=N1 | C9H8N2O2
